US04440779
A solution of 5.7 g (0.032 mole) of ethyl 1,4-dimethylpyrrole-2-acetate and 7.0 g (0.038 mole) of 2-nitrobenzoyl chloride in 130 ml xylene is heated at reflux under nitrogen for 18 hours. The mixture is stirred vigorously over a saturated sodium bicarbonate solution for 3 hours at room temperature. The xylene layer is separated from the aqueous layer, washed with brine, dried and filtered. The filtrate is concentrated in vacuo to give 9.9 g (95%) crude ethyl 1,3-dimethyl-2-(2-nitrobenzoyl)-pyrrole-5-acetate which can be used without further purification in the next step.

reactant | ethyl 1,4-dimethylpyrrole-2-acetate | 0.032 mole, 5.7 g | CN1C(=CC(=C1)C)CC(=O)OCC | C10H15NO2
reactant | 2-nitrobenzoyl chloride | 0.038 mole, 7.0 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | xylene | 130 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 1,3-dimethyl-2-(2-nitrobenzoyl)-pyrrole-5-acetate | 9.9 g, 95% | CN1C(=C(C=C1CC(=O)OCC)C)C(C1=C(C=CC=C1)[N+](=O)[O-])=O | C17H18N2O5
